US09421205B2
(e) tert-Butyl 4-(4-((4-(2-(2-methoxy-2-oxoethyl)phenethyl)-5-(trifluoromethyl)pyrimidin-2-yl)amino)benzyl)piperazine-1-carboxylate (I96)
tert-Butyl 4-(4-((4-((2-(2-methoxy-2-oxoethyl)phenyl)ethynyl)-5-(trifluoromethyl)pyrimidin-2-yl)amino)benzyl)piperazine-1-carboxylate (I95) (190 mg, 0.312 mmol) was stirred vigorously with 10% Pd/C (100 mg) in DMF (10 mL) under an atmosphere of hydrogen. After two the reaction was transferred to a Parr tube with the aid of ethyl acetate (10 mL) and the mixture was hydrogenated at 45 psi. After 18 hours Pearlman's catalyst (100 mg) and triethylamine (0.2 mL) were added, and the mixture agitated under hydrogen at 40 psi. After three hours the mixture was diluted with ethyl acetate (50 mL) and filtered through celite, washing the celite with ethyl acetate (2×25 mL). The filtrate was diluted with ethyl acetate (100 mL) and washed with 5% lithium chloride solution (3×100 mL). The organic phase was dried over sodium sulfate and evaporated to give the title compound (I96) (127 mg, 66% yield) as a yellow syrup; 1H NMR (400 MHz, CDCl3) δ 8.54 (s, 1H), 7.63-7.56 (m, 2H), 7.46 (s, 1H), 7.31 (d, J=8.5 Hz, 2H), 7.26-7.17 (m, 4H), 3.75 (s, 2H), 3.68 (s, 3H), 3.50 (s, 2H), 3.46-3.40 (m, 4H), 3.17-3.05 (m, 4H), 2.45-2.34 (m, 4H), 1.45 (s, 9H). LCMS Method C: rt 5.63 min; m/z 614.2 [M+H]+; m/z 612.1 [M−H]−.

reactant | tert-Butyl 4-(4-((4-((2-(2-methoxy-2-oxoethyl)phenyl)ethynyl)-5-(trifluoromethyl)pyrimidin-2-yl)amino)benzyl)piperazine-1-carboxylate | 0.312 mmol, 190 mg | COC(CC1=C(C=CC=C1)C#CC1=NC(=NC=C1C(F)(F)F)NC1=CC=C(CN2CCN(CC2)C(=O)OC(C)(C)C)C=C1)=O | C32H34F3N5O4
reactant | triethylamine | 0.2 mL | C(C)N(CC)CC | C6H15N
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
catalyst | Pearlman's catalyst | 100 mg | [OH-].[OH-].[Pd+2]
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
catalyst | Pd/C | 100 mg | [Pd] | Pd
solvent | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
product | tert-Butyl 4-(4-((4-(2-(2-methoxy-2-oxoethyl)phenethyl)-5-(trifluoromethyl)pyrimidin-2-yl)amino)benzyl)piperazine-1-carboxylate | 66% yield | COC(CC1=C(CCC2=NC(=NC=C2C(F)(F)F)NC2=CC=C(CN3CCN(CC3)C(=O)OC(C)(C)C)C=C2)C=CC=C1)=O | C32H38F3N5O4
